Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:8](\[O:7][C:5][H:6])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1[C:9]([H:10])([H:11])[H:12],0.1112903904599999
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.85775820559
[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][H:10],-3.99109465809
[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[O:4][C:5][H:6]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-8.09250454499
[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[O:14][H:15].[H:1][C:2]>>[H:1][C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[O:14][H:15],-4.83460995
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13],-4.04529828599
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],3.60067005925
[C:4][C:5][O:6].[O:1]=[C:2]([H:3])[C:7]([H:8])([H:9])[H:10]>>[O:1][C@@:2]([H:3])([C:4]=[C:5]=[O:6])[C:7]([H:8])([H:9])[H:10],-0.702507235027
[H:10].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.89867598307
[H:1][O:2][O:3][C:4]([H:5])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.84017503597
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12],4.08765361595
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])[H:10],4.409770931180001
[C:2](=[C:3](\[H:4])[O:5][C:6][H:7])\[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.68288320924
[H:1][O:2][C:3]1=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]1[H:11]>>[H:1][O:2][C:3]/[C:10](=[C:4]/[O:5][C:6]([H:7])([H:8])[H:9])[H:11],0.630060406211
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]#[C:7][H:8]>>[H:4].[O:1]=[C:2]([C:3])[O:5][C:6]#[C:7][H:8],4.39478052914
[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4],4.9126846866600005
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.91762039137
[H:1][C:2]#[C:3][O:4][H:5].[O:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9],1.37670364011
[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],4.5741721678300005
[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10]>>[C:4]([H:5])#[C:6][C:7]([H:8])[O:9][H:10].[H:1][C:2]#[C:3],5.14399565762
[O:1][C:2][C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-2.92739261761
[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2]#[C:3][H:4],1.4302769091799998
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],3.56567470627
[O:1][O:2][C:3]([C:4]#[C:5][H:6])=[C:7]([H:8])[H:9]>>[H:6].[O:1][O:2][C:3]([C:4]#[C:5])=[C:7]([H:8])[H:9],5.84963457084
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16]>>[H:1][C:2](=[C:3][H:4])[C:14]([C:11]([C:8]([C:5]([H:6])[H:7])([H:9])[H:10])([H:12])[H:13])([H:15])[H:16],4.36432016785
[H:13].[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.30748383926
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],4.7889894784800005
[C:2]([H:3])[O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-7.00002649795
